### PR TITLE
[Merged by Bors] - feat(LightProfinite): (co)limits

### PR DESCRIPTION
**Pull request by dagurtomas**
This PR constructs pullbacks and finite coproducts in `LightProfinite`. 

---
- [x] depends on: #10390 
- [x] depends on: #10391 
- [x] depends on: #8613
- [x] depends on: #8643 
- [x] depends on: #8674
- [x] depends on: #8676
- [x] depends on: #8678 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by TwoFX** [comment]
Hi @dagurtomas, I think that you'd make this PR easier to review if you split it into three PRs, one for the changes to the low-level topology files and one for each of the added files. The reason is that someone like me would be happy to look at the details of your change that involve dealing with the category theory library, but I really can't say anything about the pure topology bits (as simple as they may seem), which makes me (perhaps unnecessarily) reluctant to review the entire PR.

**Comment by dagurtomas** [comment]
Done: #10390, #10391 and then this one.

File: Mathlib/Topology/Category/LightProfinite/Limits.lean [hunk 1]
```diff
@@ -0,0 +1,233 @@
...
+lemma finiteCoproduct.hom_ext {B : LightProfinite.{u}} (f g : finiteCoproduct X ⟶ B)
+    (h : ∀ a : α, finiteCoproduct.ι X a ≫ f = finiteCoproduct.ι X a ≫ g) : f = g := by
+  ext ⟨a, x⟩
+  specialize h a
+  apply_fun (· x) at h
+  exact h
+
+/-- The coproduct cocone associated to the explicit finite coproduct. -/
+@[simps]
+noncomputable def finiteCoproduct.cocone : Limits.Cocone (Discrete.functor X) where
```
Comment (joelriou) [inline Mathlib/Topology/Category/LightProfinite/Limits.lean:174]: Untested, but the following would refer to more specialized limits API:
```suggestion
noncomputable def finiteCoproduct.cofan : Limits.Cofan X where
```

File: Mathlib/Topology/Category/LightProfinite/Limits.lean [hunk 2]
```diff
@@ -0,0 +1,233 @@
...
+section HasPreserves
+
+instance (n : ℕ) (F : Discrete (Fin n) ⥤ LightProfinite) :
+    HasColimit (Discrete.functor (F.obj ∘ Discrete.mk) : Discrete (Fin n) ⥤ LightProfinite) where
+  exists_colimit := ⟨⟨finiteCoproduct.cocone _, finiteCoproduct.isColimit _⟩⟩
+
+instance : HasFiniteCoproducts LightProfinite where
+  out _ := {
+    has_colimit := fun _ ↦ hasColimitOfIso Discrete.natIsoFunctor
+  }
```
Comment (joelriou) [inline Mathlib/Topology/Category/LightProfinite/Limits.lean:200]:
```suggestion
  out _ := { has_colimit := fun _ ↦ hasColimitOfIso Discrete.natIsoFunctor }
```

File: Mathlib/Topology/Category/LightProfinite/Limits.lean [hunk 3]
```diff
@@ -0,0 +1,254 @@
...
+  ext ⟨a, x⟩
+  specialize h a
+  apply_fun (· x) at h
+  exact h
+
+/-- The coproduct cocone associated to the explicit finite coproduct. -/
+@[simps]
+noncomputable def finiteCoproduct.cofan : Limits.Cofan X where
+  pt := finiteCoproduct X
+  ι := Discrete.natTrans fun ⟨a⟩ => finiteCoproduct.ι X a
```
Comment (joelriou) [inline Mathlib/Topology/Category/LightProfinite/Limits.lean:176]: Here, you should use `Cofan.mk`. (And then, the definition should be labelled with `@[simp]` (or `abbrev`) rather than `@[simps]`.)

File: Mathlib/Topology/Category/LightProfinite/Limits.lean [hunk 4]
```diff
@@ -0,0 +1,254 @@
...
+
+/-- The explicit finite coproduct cocone is a colimit cocone. -/
+@[simps]
+def finiteCoproduct.isColimit : Limits.IsColimit (finiteCoproduct.cofan X) where
```
Comment (joelriou) [inline Mathlib/Topology/Category/LightProfinite/Limits.lean:180]: Here, you should use `mkCofanColimit`. Then, the `s` you will get will be cofans instead of cocones, so that you may use the syntax `s.inj a` instead of `s.ι.app ⟨a⟩`.

File: Mathlib/Topology/Category/LightProfinite/Limits.lean [hunk 5]
```diff
@@ -0,0 +1,254 @@
...
+noncomputable def terminalIsoPUnit :
+    ⊤_ LightProfinite.{u} ≅ (FintypeCat.of PUnit.{u+1}).toLightProfinite :=
+  terminalIsTerminal.uniqueUpToIso LightProfinite.isTerminalPUnit
+
+noncomputable instance : PreservesFiniteCoproducts LightProfinite.toTopCat.{u} where
+  preserves J _ := by
+    have : PreservesColimitsOfShape (Discrete J) Profinite.toTopCat.{u} :=
+      (inferInstance : PreservesColimitsOfShape _ (profiniteToCompHaus.{u} ⋙ compHausToTop.{u}))
+    exact (inferInstance : PreservesColimitsOfShape (Discrete J)
+      (LightProfinite.lightToProfinite.{u} ⋙ Profinite.toTopCat.{u}))
```
Comment (joelriou) [inline Mathlib/Topology/Category/LightProfinite/Limits.lean:244]: In this definition and a few others, why not declaring the suitable instances for the functor `Profinite.toTopCat` as separate definitions, because it may be useful, rather than having them only inside the proofs?

File: Mathlib/Topology/Category/LightProfinite/Limits.lean [hunk 6]
```diff
@@ -0,0 +1,254 @@
...
+  exact isLight_of_mono i
+
+variable {X Y B : LightProfinite.{u}} (f : X ⟶ B) (g : Y ⟶ B)
+
+/--
+The "explicit" pullback of two morphisms `f, g` in `LightProfinite`, whose underlying profinite set
+is the set of pairs `(x, y)` such that `f x = g y`, with the topology induced by the product.
+-/
+noncomputable def pullback : LightProfinite.{u} :=
+  ofIsLight.{u} (Profinite.pullback.{u} (lightToProfinite.{u}.map f) (lightToProfinite.{u}.map g))
```
Comment (joelriou) [inline Mathlib/Topology/Category/LightProfinite/Limits.lean:47]: Are *all* these `{u}` necessary?

File: Mathlib/Topology/Category/LightProfinite/Limits.lean (hunk 4 above)
Comment (dagurtomas) [reply Mathlib/Topology/Category/LightProfinite/Limits.lean]: I took the opportunity to apply this suggestion and the previous one in `Profinite/Limits` and `CompHaus/Limits` as well

File: Mathlib/Topology/Category/LightProfinite/Basic.lean [hunk 7]
```diff
@@ -149,3 +159,15 @@ instance : EssentiallySmall LightProfinite.{u} where
   equiv_smallCategory := ⟨LightProfinite', inferInstance, ⟨LightProfinite.equivSmall⟩⟩
 
 end EssentiallySmall
+
+/--
+Many definitions involving universe inequalities in Mathlib are expressed through use of `max u v`.
```
Comment (riccardobrasca) [inline Mathlib/Topology/Category/LightProfinite/Basic.lean:164]: Do you think that [#3981](https://github.com/leanprover/lean4/pull/3981) can help here?

File: Mathlib/Topology/Category/LightProfinite/Limits.lean [hunk 8]
```diff
@@ -0,0 +1,243 @@
+/-
+Copyright (c) 2023 Dagur Asgeirsson. All rights reserved.
```
Comment (riccardobrasca) [inline Mathlib/Topology/Category/LightProfinite/Limits.lean:2]:
```suggestion
Copyright (c) 2024 Dagur Asgeirsson. All rights reserved.
```

File: Mathlib/Topology/Category/LightProfinite/Basic.lean (hunk 7 above)
Comment (dagurtomas) [reply Mathlib/Topology/Category/LightProfinite/Basic.lean:164]: I just merged master and tried changing `LightProfiniteMax.{u, w}` to `LightProfinite.{max u w}` and it didn't work. From the description of the PR you link it sounds like it should though, is mathlib not running on a version of Lean that has this feature?

Comment (dagurtomas) [reply Mathlib/Topology/Category/LightProfinite/Basic.lean:164]: Indeed it seems that this feature is not in mathlib yet, I guess it will land with `v4.8.0-rc1`? Then we should be able to get rid of all these `TypeMax`, `TopCatMax`, etc. hacks?

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

**Comment by Ruben-VandeVelde** [comment]
Please merge master into this branch

**Comment by dagurtomas** [comment]
Doing that now

**Comment by dagurtomas** [comment]
Could someone try merging again please? 😇

**Comment by joelriou** [comment]
bors merge
